Análise CC, Lista 3, Exercício 1
Is  2 0 DC 2A
R1  2 0 6
R2  2 1 8
R3  2 1 8
Vab 1 0 DC 0V
.DC Vab 0 0 1
.PRINT DC I(Is) I(R1) I(R2) I(R3) I(Vab)
.END